US05280032
A mixture of 3.5 g of potassium tert-butoxide, 9.4 g of N-tritylethanolamine and 50 ml of dimethyl sulfoxide was heated to 85° C. Thereto was added 5.3 g of 2-(1-naphthyl)oxirane. The resulting mixture was stirred at the same temperature for 5 minutes. The reaction mixture was cooled and added to a mixture of 100 ml of ethyl acetate and 150 ml of ice water. The organic layer was separated. The aqueous layer was extracted with 50 ml of ethyl acetate. The extract was combined with the previously separated organic layer. The combined organic layer was washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. To the residue thus obtained were added 80 ml of a 50% aqueous formic acid solution and 40 ml of tetrahydrofuran. The resulting mixture was stirred at 50°-60° C. for 1 hour. The reaction mixture was cooled. The solvent was removed by distillation under reduced pressure. To the residue thus obtained were added 60 ml of ethyl acetate and 60 ml of water. The resulting mixture was adjusted to pH 2 with 6N hydrochloric acid. The aqueous layer was separated. The organic layer was extracted twice each with 15 ml of water. The extracts were combined with the previously separated aqueous layer. To the combined aqueous layer was added 100 ml of chloroform and the resulting mixture was adjusted to pH 10.5 with potassium carbonate. The organic layer was separaed, washed with water, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. To the residue thus obtained was added 10 ml of diisopropyl ether. The resulting crystals were collected by filtration and dried to obtain 1.8 g of 2-(2-aminoethoxy)-1-(1-naphthyl)ethanol (compound No. 267).

reactant | potassium tert-butoxide | 3.5 g | CC(C)([O-])C.[K+]
reactant | N-tritylethanolamine | 9.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCO | C21H21NO
reactant | 2-(1-naphthyl)oxirane | 5.3 g | C1(=CC=CC2=CC=CC=C12)C1OC1 | C12H10O
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | diisopropyl ether | 10 ml | C(C)(C)OC(C)C | C6H14O
solvent | water | 60 ml | O | H2O
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | formic acid | C(=O)O | CH2O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 2-(2-aminoethoxy)-1-(1-naphthyl)ethanol | 1.8 g | NCCOCC(O)C1=CC=CC2=CC=CC=C12 | C14H17NO2
